US06258812B1
1-(4-Chloroanilino)-4-(4-pyridylmethylamino)phthalazine
A mixture of 0.5 g (1.5436 mmol) 1-chloro-4-(4-chloroanilino)phthalazine hydrochloride (for preparation see J. Chem. Soc. 1948, 777-782) and 2 g (18.50 mmol) 4-aminomethylpyridine is stirred for 36 h at 90° C. and then purified by means of flash chromatography on silica gel with a particle size of 0.04-0.06 mm using acetate and acetate/methanol (20:1). Evaporation of product-containing fractions, recrystallization of the residue from methanol, and drying of the crystallizate under HV yield the title compound; m.p. 233-236° C.; ESI-MS: (M+H)+=362.

reactant | 1-chloro-4-(4-chloroanilino)phthalazine hydrochloride | 1.5436 mmol, 0.5 g | Cl.ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)Cl
reactant | 4-aminomethylpyridine | 18.50 mmol, 2 g | NCC1=CC=NC=C1 | C6H8N2
product | 1-(4-Chloroanilino)-4-(4-pyridylmethylamino)phthalazine | ClC1=CC=C(NC2=NN=C(C3=CC=CC=C23)NCC2=CC=NC=C2)C=C1 | C20H16ClN5
